US04017621
To a suspension of sodium hydride (0.05 g) in dimethylformamide was added a solution of 5-(2-morpholinylmethyl)-5H-dibenz[b,f]azepine (0.2 g) in dimethylformamide under ice cooling, and the resulting mixture was stirred at room temperature for 30 minutes. To the mixture was added a solution of 3,3-dimethylallyl bromide (0.12 g) in dimethylformamide, and the reaction mixture was stirred at room temperature for 3 hours, cooled, admixed with water and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 5-{4-(3,3-dimethylallyl)-2-morpholinylmethyl}-5H-dibenz[b,f]azepine. M.P. 99°-100° C.

reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 5-(2-morpholinylmethyl)-5H-dibenz[b,f]azepine | 0.2 g | N1CC(OCC1)CN1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C19H20N2O
reactant | 3,3-dimethylallyl bromide | 0.12 g | CC(=CCBr)C | C5H9Br
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-{4-(3,3-dimethylallyl)-2-morpholinylmethyl}-5H-dibenz[b,f]azepine | CC(=CCN1CC(OCC1)CN1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)C | C24H28N2O
